US06060469
a) 3-Bromo-4-(prop-2-enyl)oxynitrobenzene
2-Bromo-4-nitrophenol (9.2 g) was dissolved in dimethylformamide (50 ml) and sodium hydride (2.4 g) was added portionwise. The bright yellow solution was stirred until all effervescence ceased. Allyl bromide (4.7 ml) was added and the resulting solution was heated at 60° C. for 30 minutes. The mixture was cooled, quenched by the dropwise addition of water 30 ml, then diluted with water (500 ml) and extracted with ethyl acetate (3×50 ml). The combined organic extracts were washed with sodium hydroxide (2N), water, brine, dried (MgSO4) and evaporated. The residue was purified on silica using 5-10% ethyl acetate in hexane to afford the title compound as a crystalline solid (10 g). 1H NMR (360 MHz, CDCl3) δ 4.72 (2H, d, J=6 Hz), 5.37 (1H, d, J=9 Hz), 5.51 (1H, d, J=15 Hz), 6.94 (1H, d, J=6.5 Hz), 8.18 (1H, dd, J=6.5, 2.6 Hz), 8.47 (1H, J=2.6 Hz).

reactant | 2-Bromo-4-nitrophenol | 9.2 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | Allyl bromide | 4.7 ml | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Bromo-4-(prop-2-enyl)oxynitrobenzene | 10 g | BrC=1C=C(C=CC1OCC=C)[N+](=O)[O-] | C9H8BrNO3
